US09034900B2
Step 1: 2-bromo-1-(cyclopropylmethoxy)-4-methanesulfonylbenzene
A mixture of 2-bromo-4-methanesulfonylphenol (7.2 g, 29 mmol), (chloromethyl)cyclopropane (4.3 g, 32 mmol) and K2CO3 (8 g, 58 mmol) in acetone (80 mL) was stirred at 80° C. for 5 h. The mixture was quenched with water (40 mL). Extractive work up with ethyl acetate and purification by preparative HPLC gave the title compound (2.5 g, 28.6%). 1H NMR (CDCl3, 400 MHz) δ 8.12 (d, J=2.3 Hz, 1H), 7.84 (dd, J1=2.3 Hz, J2=8.7 Hz, 1H), 6.97 (d, J=8.8 Hz, 1H), 3.99 (d, J=6.7 Hz, 2H), 3.05 (s, 3H), 1.23-1.43 (m, 1H), 0.70 (d, J=7.9 Hz, 2H), 0.44 (d, J=5.4 Hz, 2H).

reactant | 2-bromo-4-methanesulfonylphenol | 29 mmol, 7.2 g | BrC1=C(C=CC(=C1)S(=O)(=O)C)O | C7H7BrO3S
reactant | (chloromethyl)cyclopropane | 32 mmol, 4.3 g | ClCC1CC1 | C4H7Cl
reactant | K2CO3 | 58 mmol, 8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 80 mL | CC(=O)C | C3H6O
product | 2-bromo-1-(cyclopropylmethoxy)-4-methanesulfonylbenzene | 2.5 g, 28.6% | BrC1=C(C=CC(=C1)S(=O)(=O)C)OCC1CC1 | C11H13BrO3S
